US08937071B2
A solution of N,N-dimethyl-2-((5-nitro-3-(trifluoromethyl)pyridin-2-yl)oxy)ethanamine (500 mg, 1.791 mmol) and Pd/C (191 mg, 1.791 mmol) in MeOH (30 mL) was stirred at 20° C. under H2. After TLC analysis (DCM/MeOH=20/1) showed the starting material had disappeared, the mixture was filtered. The filtrate was concentrated to yield a oil of 6-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)pyridin-3-amine (360 mg, 1.444 mmol, 81.1% yield): 1H NMR (400 MHz, CD3OD) δ 7.77 (d, J=2.4 Hz, 1H), 7.37 (d, J=3.2 Hz, 1H), 4.43 (t, J=5.6 Hz, 2H), 2.78 (t, J=6.4 Hz, 2H), 2.35 (s, 6H); ES-LCMS m/z 250.1 (M+H).

reactant | N,N-dimethyl-2-((5-nitro-3-(trifluoromethyl)pyridin-2-yl)oxy)ethanamine | 1.791 mmol, 500 mg | CN(CCOC1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-])C | C10H12F3N3O3
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 1.791 mmol, 191 mg | [Pd] | Pd
product | 6-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)pyridin-3-amine | 1.444 mmol, 360 mg, 81.1% yield | CN(CCOC1=C(C=C(C=N1)N)C(F)(F)F)C | C10H14F3N3O
